US07109148B2
A mixture of 0.60 g of methyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate (compound a-6), 0.13 g of sodium carbonate, and 7.0 ml of ethanol was heated at reflux for 2 hours. After cooling to room temperature, the solvent was distilled out under reduced pressure, and the residue was subjected to silica gel chromatography to give 0.55 g of ethyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate (compound a-10).

reactant | methyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate | 0.60 g | ClC1=C(OC=2C(=NC=CC2)OCC(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H14ClF4N3O6
reactant | sodium carbonate | 0.13 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 7.0 ml | C(C)O | C2H6O
product | ethyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate | 0.55 g | ClC1=C(OC=2C(=NC=CC2)OCC(=O)OCC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C21H16ClF4N3O6
